US04505929
(4-(4-(Methylsulfonyl)phenoxy)phenoxy)acetonitrile
To a solution of 5.29 g (0.0200 mole) of 4-(4-(methylsulfonyl)phenoxy)phenol and 1.51 g (0.0200 mole) of 2-chloroacetonitrile in 100 ml of acetonitrile was added 3.0 g (0.0220 mole) of K2CO3. The mixture was heated at reflux for 3.5 hrs and cooled. The mixture was poured into aqueous NaOH and the product extracted from the mixture with CH2Cl2. The organic layer was extracted with aqueous NaOH, water and dried (Na2SO4). Removal of solvent in vacuo afforded 5.6 g (92.4% yield) of product. Recrystallization from ethanol followed by washing with aqueous NaOH and water afforded purified (4-(4-(methylsulfonyl)phenoxy)phenoxy)acetonitrile, mp 114°-115.5° C.

reactant | 4-(4-(methylsulfonyl)phenoxy)phenol | 0.0200 mole, 5.29 g | CS(=O)(=O)C1=CC=C(OC2=CC=C(C=C2)O)C=C1 | C13H12O4S
reactant | 2-chloroacetonitrile | 0.0200 mole, 1.51 g | ClCC#N | C2H2ClN
reactant | K2CO3 | 0.0220 mole, 3.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | [OH-].[Na+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | (4-(4-(Methylsulfonyl)phenoxy)phenoxy)acetonitrile | 5.6 g, 92.4% yield | CS(=O)(=O)C1=CC=C(OC2=CC=C(OCC#N)C=C2)C=C1 | C15H13NO4S
